US05728878
Preparation of N,N-di-(2-hydroxyethyl) 3-(N-vinylformamido)propionamide
A 50 mL single-neck round bottom flask equipped with a distillation head was charged with 15.1 grams (0.096 mole) of methyl 3-(N-vinylformamido)propionate, 9.95 grams (0.09 mole) of diethanolamine and 0.15 gram of 25% sodium methoxide in methanol solution. The mixture was stirred at 90° C. for 2 hours and the generated methanol was removed by distillation at reduced pressure. Both proton NMR and GC analyses indicated approximately a 90% conversion to the titled product.

reactant | methyl 3-(N-vinylformamido)propionate | 0.096 mole, 15.1 grams | C(=C)N(C=O)CCC(=O)OC | C7H11NO3
reactant | diethanolamine | 0.09 mole, 9.95 grams | N(CCO)CCO | C4H11NO2
reactant | sodium methoxide | 0.15 gram | C[O-].[Na+]
solvent | methanol | CO | CH4O
product | N,N-di-(2-hydroxyethyl) 3-(N-vinylformamido)propionamide | OCCN(C(CCN(C=O)C=C)=O)CCO | C10H18N2O4
